US04595685
(a) 2,3-Dihydro-4-methyl-2-(2-methoxyphenyl)benzothiazin-3-one
5.42 g (20 mmol) of 2,3-dihydro-2-(2-methoxyphenyl)benzothiazin-3-one are dissolved in 100 ml of acetone, and 6.9 ml of methyl iodide and 6.5 g of potassium carbonate are added, and the mixture is heated to reflux for 45 hours. After filtration, the filtrate is concentrated. The product crystallizes on trituration with isopropyl ether.

reactant | 2,3-dihydro-2-(2-methoxyphenyl)benzothiazin-3-one | 20 mmol, 5.42 g | COC1=C(C=CC=C1)N1SC2=C(CC1=O)C=CC=C2 | C15H13NO2S
reactant | methyl iodide | 6.9 ml | CI | CH3I
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,3-Dihydro-4-methyl-2-(2-methoxyphenyl)benzothiazin-3-one | CC1C(N(SC2=C1C=CC=C2)C2=C(C=CC=C2)OC)=O | C16H15NO2S
